US06569863B1
(c). Ethyl 5-Hydroxy-2-methylthio-4-phenyl-thieno[2,3-d]pyrimidine-6-carboxylate
Treatment of 5-ethyloxycarbonyl-2-methylthio-4-phenyl-6-oxopyrimidine (63 mg) with POCl3 (304 μl) and subsequent reaction of the product with ethyl 2-mercaptoacetate were performed according to the methods described in example 1. The pure title compound was obtained after chromatography on silicagel in heptanelethyl acetate 100/0→60/40 (v/v) as eluent.

reactant | 5-ethyloxycarbonyl-2-methylthio-4-phenyl-6-oxopyrimidine | 63 mg | C(C)OC(=O)C1=C(N=C(NC1=O)SC)C1=CC=CC=C1 | C14H14N2O3S
reactant | POCl3 | 304 μl | O=P(Cl)(Cl)Cl | Cl3OP
reactant | ethyl 2-mercaptoacetate | SCC(=O)OCC | C4H8O2S
solvent | acetate | C(C)(=O)[O-]
product | Ethyl 5-Hydroxy-2-methylthio-4-phenyl-thieno[2,3-d]pyrimidine-6-carboxylate | OC1=C(SC=2N=C(N=C(C21)C2=CC=CC=C2)SC)C(=O)OCC | C16H14N2O3S2
